US04837235
To a mixture of 6-nitroindazole (1.63 g) and 6N sodium hydroxide (2.08 ml) was added 5.25% w/v sodium hypochlorite (17.86 ml). After stirring for 30 minutes, filtration, and washing with 1N sodium hydroxide, 1-sodio-3-chloro-6-nitroindazole (2.08 g, 95%) was obtained as a solid; mp >270° C.

reactant | 6-nitroindazole | 1.63 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | sodium hydroxide | 6N, 2.08 ml | [OH-].[Na+]
reactant | sodium hypochlorite | 17.86 ml | Cl[O-].[Na+]
product | 1-sodio-3-chloro-6-nitroindazole | 2.08 g, 95% | [Na]N1N=C(C2=CC=C(C=C12)[N+](=O)[O-])Cl | InChI=1S/C7H3ClN3O2.Na/c8-7-5-2-1-4(11(12)13)3-6(5)9-10-7;/h1-3H;/q-1;+1
